US07501516B2
3-cyano-7-[(2R)-2-hydroxy-3-morpholinopropoxy]-6-methoxy-4-(2,3-methylenedioxyanilino)quinoline
A mixture of 3-cyano-7-[(2R)-2,3-epoxypropoxy]-6-methoxy-4-(2,3-methylenedioxyanilino)quinoline (0.1 g), morpholine (0.11 g) and propanol (5 ml) was stirred and heated to 80° C. for 3 hours. The resultant mixture was evaporated and the residue was purified by column chromatography on silica using increasingly polar mixtures of methylene chloride and methanol as eluent. The material so obtained was triturated under diethyl ether to give the title compound (0.04 g); NMR Spectrum: (DMSOd6) 2.35-2.52 (m, 6H), 3.56 (m, 4H), 3.93 (s, 3H), 4.04.1 (m, 2H), 4.17 (m, 1H), 4.9 (d, 1H), 5.98 (s, 2), 6.9-6.92 (m, 3H), 7.33 (s, 1H), 7.86 (s, 1H), 8.4 (s, 1H), 9.48 (br s, 1H); Mass Spectrum: M−H− 477.

reactant | 3-cyano-7-[(2R)-2,3-epoxypropoxy]-6-methoxy-4-(2,3-methylenedioxyanilino)quinoline | 0.1 g | C(#N)C=1C=NC2=CC(=C(C=C2C1NC1=C2C(=CC=C1)OCO2)OC)OC[C@H]2CO2 | C21H17N3O5
reactant | morpholine | 0.11 g | N1CCOCC1 | C4H9NO
solvent | propanol | 5 ml | C(CC)O | C3H8O
product | 3-cyano-7-[(2R)-2-hydroxy-3-morpholinopropoxy]-6-methoxy-4-(2,3-methylenedioxyanilino)quinoline | 0.04 g | C(#N)C=1C=NC2=CC(=C(C=C2C1NC1=C2C(=CC=C1)OCO2)OC)OC[C@@H](CN2CCOCC2)O | C25H26N4O6
